US06903129B2
A mixture of 1.02 g (3 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid and 3 g Amberlite® IR120 in 30 ml allylalcohol were stirred at room temperature for 90 hours. After filtration the solvent was distilled off, the residue was taken up in dichloromethane and extracted with 2% aqueous sodium bicarbonate. The organic extract was dried with sodium sulfate and the solvent was distilled off to yield 620 mg (49%) (R)-1-{6-[(R)-2-alloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid allyl ester as alight yellow oil, MS m/e (%): 421 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 3 mmol, 1.02 g | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
solvent | allylalcohol | 30 ml | C(C=C)O | C3H6O
product | (R)-1-{6-[(R)-2-alloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid allyl ester | 620 mg, 49% | C(C=C)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC=C)=O | C22H32N2O6
